US05719161
8-{2-[(2-Methoxyethoxy)carbonylamino]-6-methylbenzyloxy}-2-methylimidazo[1,2-a]pyridine-3-methanol
A suspension of 3.7 g (9.3 mmol) of 8-{2-[(2-methoxyethoxy)carbonylamino]-6-methylbenzyloxy}-2-methylimidazo[1,2-a]pyridine-3-carboxaldehyde in 40 ml of methanol is treated at RT with 362 mg (9.3 mmol) of 97% sodium borohydride and stirred for 75 min. It is added to ice/water, extracted with dichloromethane and concentrated in a Rotavapor. The residual oil is crystallized using 5 ml of isopropyl alcohol, 5 ml of toluene and diisopropyl ether. 2.7 g (72.7%) of the title compound of m.p. 121°-123° C. are obtained.

reactant | 8-{2-[(2-methoxyethoxy)carbonylamino]-6-methylbenzyloxy}-2-methylimidazo[1,2-a]pyridine-3-carboxaldehyde | 9.3 mmol, 3.7 g | COCCOC(=O)NC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C=O)C(=CC=C1)C | C21H23N3O5
reactant | sodium borohydride | 9.3 mmol, 362 mg | [BH4-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 8-{2-[(2-Methoxyethoxy)carbonylamino]-6-methylbenzyloxy}-2-methylimidazo[1,2-a]pyridine-3-methanol | 2.7 g, 72.7% | COCCOC(=O)NC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)CO)C(=CC=C1)C | C21H25N3O5
